US06451814B1
4-[4-(2-{[(2S)-2-Hydroxy-3-(4-hydroxyphenoxy)propyl]amino}ethyl)phenoxy]-N-octyl-1-piperidinecarboxamide
4-[4-(2-Aminoethyl)phenoxy] N-octyl-1-piperidinecarboxamide (0.825 g, 2.2 mmol) was reacted with (2S)-2-{[4-(benzyloxy)phenoxy]methyl}oxirane (0.564 g, 2.2 mmol) according to Procedure G (eluant: 33:1 going to 9:1 dichloromethane-methanol) to give the title compound following crystallization from hexane (0.533 g, 0.84 mmol).

reactant | 4-[4-(2-Aminoethyl)phenoxy] N-octyl-1-piperidinecarboxamide | 2.2 mmol, 0.825 g | NCCC1=CC=C(OC2CCN(CC2)C(=O)NCCCCCCCC)C=C1 | C22H37N3O2
reactant | (2S)-2-{[4-(benzyloxy)phenoxy]methyl}oxirane | 2.2 mmol, 0.564 g | C(C1=CC=CC=C1)OC1=CC=C(OC[C@H]2OC2)C=C1 | C16H16O3
reactant | hexane | 0.84 mmol, 0.533 g | CCCCCC | C6H14
solvent | dichloromethane methanol | ClCCl.CO
product | 4-[4-(2-{[(2S)-2-Hydroxy-3-(4-hydroxyphenoxy)propyl]amino}ethyl)phenoxy]-N-octyl-1-piperidinecarboxamide | O[C@@H](CNCCC1=CC=C(OC2CCN(CC2)C(=O)NCCCCCCCC)C=C1)COC1=CC=C(C=C1)O | C31H47N3O5
